US06448258B2
1-Benzyl-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (II)
A mixture of 4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (I, J. Heterocyclic Chem.,19, 837-49 (1982), 1.0 g, 5.8 mmol) in DMF (10 ml) is cooled to 0° and treated with potassium t-butoxide in THF (1.98 M, 3.2 ml, 6.3 mmol) maintaining the reaction temperature at 0°. The resulting mixture is stirred at 0° for 10 minutes. Benzyl bromide (0.73 ml, 6.1 mmol) is then added while maintaining the reaction temperature at methyl t-butyl ether (MTBE) from water followed by several water washes. The MTBE phase is concentrated under reduced pressure. The concentrate is cooled to 0°, filtered and washed two times with 0° MTBE. The product is dried at 50° under reduced pressure with a nitrogen purge to give the title compound, CMR (CDCl3, 100 MHz) 153.78, 136.44, 128.69, 127.67, 127.60, 126.73, 125.86, 122.90, 122.78, 121.28, 116.92, 116.17, 108.36, 44.95 and 42.37 δ.

reactant | 4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 5.8 mmol, 1.0 g | N1C(N2CC=CC3=CC=CC1=C23)=O | C10H8N2O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 6.3 mmol, 1.98 M, 3.2 ml | C1CCOC1 | C4H8O
reactant | Benzyl bromide | 6.1 mmol, 0.73 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | methyl t-butyl ether | C(C)(C)(C)OC | C5H12O
product | 1-Benzyl-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | C(C1=CC=CC=C1)N1C(N2CC=CC3=CC=CC1=C23)=O | C17H14N2O
